US04329347
6-[4-(3-Methyl-4-bromo-phenylsulfinyl)-butoxy]-carbostyril
Prepared analogous to Example 123 from 6-[4-(3-methyl-4-bromo-phenylmercapto)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 6-[4-(3-methyl-4-bromo-phenylmercapto)-butoxy]-carbostyril | CC=1C=C(C=CC1Br)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C20H20BrNO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(3-Methyl-4-bromo-phenylsulfinyl)-butoxy]-carbostyril | CC=1C=C(C=CC1Br)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C20H20BrNO3S
